US07893267B2
To a solution of 0.24 g (0.95 mmol) of the above (3-methanesulfonyl-phenylethynyl)-trimethyl-silane in methanol (2 mL) was added K2CO3 aq. solution (1 M, 1 mL), the mixture was stirred at room temperature for 1 h. After usual workup, the residue was purified by column chromatography eluted with hexanes/ethyl acetate (v/v=5:1 then 3:1) to give 140 mg (82%) 1-ethynyl-3-methanesulfonyl-benzene.

reactant | (3-methanesulfonyl-phenylethynyl)-trimethyl-silane | 0.95 mmol, 0.24 g | CS(=O)(=O)C=1C=C(C=CC1)C#C[Si](C)(C)C | C12H16O2SSi
reactant | K2CO3 | 1 M, 1 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
product | 1-ethynyl-3-methanesulfonyl-benzene | 140 mg, 82% | C(#C)C1=CC(=CC=C1)S(=O)(=O)C | C9H8O2S
